US05420129
4.57 g of 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-hydroxymethyl-2-(morpholin-4-yl)-pyrimidin-4-yl]benzenesulphonamide in 50 ml of POCl3 were stirred with 2.03 g of PCl5 at 20° C. for 2 hours. Thereafter, the POCl3 was distilled off and the residue was partitioned between ethyl acetate and aqueous 1N NaOH. The organic phase was washed with water, dried and the solvent was evaporated. The residue was chromatographed over silica gel with dichloromethane and chloroform, thereafter recrystallized from dichloromethane-ethanol. There were obtained 3.01 g of 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-chloromethyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide, m.p. 170° C., MS: M=581.

reactant | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-hydroxymethyl-2-(morpholin-4-yl)-pyrimidin-4-yl]benzenesulphonamide | 4.57 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)CO)N1CCOCC1 | C26H31ClN4O6S
reactant | PCl5 | 2.03 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-chloromethyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide | 3.01 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)CCl)N1CCOCC1 | C26H30Cl2N4O5S
